US07968538B2
A solution of 1-(5-chloro-2,3-dimethoxy-phenyl)-ethyl amine (1.27 g, 5.89 mmol), 2,4-difluoro-1-methanesulfonyl-benzene (1.25 g, 6.48 mmol) and N,N-diisopropylethylamine (2.1 mL, 11.78 mmol) in acetonitrile was stirred at 80° C. for 48 h. The solvent was concentrated in vacuo, the residue was taken up in dichloromethane and washed with water, dried, and concentrated under reduced pressure to the crude compound which was purified by silica gel column (20% ethyl acetate in hexanes) to afford [1-(5-chloro-2,3-dimethoxy-phenyl)-ethyl]-(5-fluoro-2-methanesulfonyl-phenyl)-amine (700 mg, 32%): 1H NMR (400 MHz, CDCl3): δ 7.74 (dd, 1H), 6.82 (m, 2H), 6.73 (dd, 1H), 6.42 (dd, 1H), 6.24 (dd, 1H), 4.82 (m, 1H), 3.95 (s 3 H), 3.88 (s, 3H), 3.27 (3, 3H), 1.58 (s, 3H).

reactant | 1-(5-chloro-2,3-dimethoxy-phenyl)-ethyl amine | 5.89 mmol, 1.27 g | ClC=1C=C(C(=C(C1)C(C)N)OC)OC | C10H14ClNO2
reactant | 2,4-difluoro-1-methanesulfonyl-benzene | 6.48 mmol, 1.25 g | FC1=C(C=CC(=C1)F)S(=O)(=O)C | C7H6F2O2S
reactant | N,N-diisopropylethylamine | 11.78 mmol, 2.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | C(C)#N | C2H3N
product | [1-(5-chloro-2,3-dimethoxy-phenyl)-ethyl]-(5-fluoro-2-methanesulfonyl-phenyl)-amine | 700 mg, 32% | ClC=1C=C(C(=C(C1)C(C)NC1=C(C=CC(=C1)F)S(=O)(=O)C)OC)OC | C17H19ClFNO4S
